US06683201B2
In analogy to example 1.4, reaction of (4-Hydroxy-phenyl)-methyl-carbamic acid tert-butyl ester with 1,4-dibromopentane yielded [4-(5-Bromo-pentyloxy)-phenyl]-methyl-carbamic acid tert-butyl ester, MS: 372 (MH+, 1Br).

reactant | (4-Hydroxy-phenyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C1=CC=C(C=C1)O)=O | C12H17NO3
reactant | 1,4-dibromopentane | BrCCCC(C)Br | C5H10Br2
product | [4-(5-Bromo-pentyloxy)-phenyl]-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C1=CC=C(C=C1)OCCCCCBr)=O | C17H26BrNO3
